Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Niacin / dibucaine / nickel / fragrance / acrylate / gold sodium 
thiosulfate / adhesive
 
Attending: ___
 
Chief Complaint:
dysarthria, left sided weakness 
 
Major Surgical or Invasive Procedure:
N/A 

 
History of Present Illness:
___ Stroke Scale - Total [4]
 1a. Level of Consciousness -   
 1b. LOC Questions -  
 1c. LOC Commands -  
 2. Best Gaze -  
 3. Visual Fields -  
 4. Facial Palsy - 1 
 5a. Motor arm, left -  1
 5b. Motor arm, right -  
 6a. Motor leg, left -  
 6b. Motor leg, right -  
 7. Limb Ataxia -  1
 8. Sensory -  
 9. Language -  
 10. Dysarthria -1
 11. Extinction and Neglect -  

HPI: 
___ with with severe spinal stenosis and osteoarthritis on
topical estrogen/progesterone who presents with left sided
weakness, left facial droop, and slurred speech. 

Per daughter, she appeared to be in her usual state of health
yesterday morning around ~7am when she spoke with her on the
phone. Sometime yesterday morning, while trying to feed her cat
Ms. ___ fell from standing, no headstrike, no LOC. She
cannot recall why exactly she fell, but she recalls the entire
episode. She had difficulty getting up, which she attributes to
her baseline shoulder weakness ___ OA (in knees in shoulders 
b/l)
and rotator cuff tear on R. She had two other episodes 
yesterday,
during which she was seated on the floor and was not able to 
lift
herself for up to four hours, which she attributed to bilateral
leg weakness. She was eventually was able to use a yoga block 
and
other objects to lift herself off the ground. While on the
ground, she did urinate but she was aware of this just unable to
ambulate to the bathroom. Per daughter, she tried calling 
several
times yesterday and was not able to reach her mother, but she 
did
not think this was unusual. She lives by herself and was alone
all day yesterday. 

This AM, daughter noticed that her mother's texts did not make
sense such that she typed "do you law school" followed by
letters/numbers that did not form words. When she called, she
noticed that her mom seemed "out of it", not knowing if it was
day/night but otherwise with sensical speech that was slurred.
She hung up midway through the call. Her mom's best friend is an
NP who recommended that she come to the ED. In the car, daughter
noted slurring speech and felt that her mom was "not herself." 

Ms. ___ noted a headache yesterday evening that felt like
her usual caffeine headache, which subsequently resolved with
Tylenol. She reports bilateral leg weakness, which she 
attributes
to her bad knees. Has double vision on L at baseline, but no
recent changes in vision. 

On neurologic review of systems, the patient denies
lightheadedness or confusion. Denies difficulty with
comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, or dysphagia.
She reported L hand numbness that resolved this morning. Denies
bowel or bladder incontinence or retention. 

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain. No recent change in
bowel or bladder habits. Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash.  

 
Past Medical History:
Cervical spondylosis 
Eczema
Hypothyroidism 
Restless Leg 
OSA 
s/p TKR (___)
s/p shoulder surgery (___)
s/p hand surgery (___)
s/p multiple skin cancer excision (basal cell ___

 
Social History:
___
Family History:
Cousin-meningioma 
___, died in ___ 
Father - ITP, died in ___
Daughter -OCD 
Grandmother- cerebral hemorrhage

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
Vitals: T:98.1 ___ RR:20 SaO2:100%RA  
General: NAD  
HEENT: NCAT, no oropharyngeal lesions, neck supple  
___: No cyanosis
Pulmonary: Breathing comfortably   
Extremities: Warm, no edema  

Neurologic Examination:  
MS: Awake, alert, oriented x 3. Able to relate history without
difficulty, although lacks some insight into current condition.
Speech is fluent with full sentences, intact repetition, and
intact verbal comprehension. Naming intact. No paraphasias.
Slight dysarthria. Normal prosody. No evidence of hemineglect. 
No
left-right confusion. Able to follow both midline and
appendicular commands. 
 
Cranial Nerves - PERRL 3->2 brisk. VF full to number counting.
EOMI aside from slight limitation of L upgaze, no nystagmus.
V1-V3 without deficits to light touch bilaterally. L lower face
slow to activate with + left facial droop. Normal forhead
furrowing. Hearing intact to finger rub bilaterally. Palate
elevation symmetric. SCM/Trapezius strength ___ bilaterally.
Tongue midline.  

Motor - Normal bulk. Increased tone in LLE. +orbiting. +L
drift.No tremor or asterixis. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5-   5     4+    4+    5    5-     5     5     5    
 R   5    5     5     5     5    5      5     5     5    
Sensory - No deficits to light touch bilaterally. No extinction
to DSS. 

DTRs:  
[Bic] [Tri] [___] [Quad]  [Pat]  [Achilles]
     L  3+    3+     3+      3+       3+
     R  3+    3+     3+      3+       3+
Plantar response flexor bilaterally. Crossed adductors
bilaterally with ___ beats of clonus at L ankle

Coordination - Dysmetria on left with FTN testing. Decreased
speed and irregular cadence on left. Normal FTN and RAM on R. 

Gait - deferred

DISCHARGE PHYSICAL EXAMINATION
Vital signs within normal limits 

Gen: awake, alert, comfortable, in no acute distress
HEENT: normocephalic atraumatic, no oropharyngeal lesions 
CV: warm, well perfused
Pulm: breathing non labored on room air
Extremities: no cyanosis/clubbing or edema

Neurologic:
-MS: Awake, alert, oriented to self, place, time and situation. 
Easily maintains attention to examiner. Able to say months of 
the year backwards. Speech fluent, no dysarthria.  No evidence 
of hemineglect noted on line bisection test. Patient's affect is
somewhat flat.
-CN: Gaze congjugate with R extotropia present (baseline per
patient), ___,  EOMI no nystagmus, mild L lower facial droop,
palate elevates symmetrically, tongue midline
-Motor: normal bulk and tone. L pronation with slight cupping. 
No
tremor or asterixis. 
  Delt  Bic  Tri  ECR  FEx  FFl  IO  IP  Quad  Ham  TA   Gas  
___
L  4     5    4-   4+   4    5    5   5    5-   4+   5    5    5
R  5     5    5    5    5    5    5   5    5    5    5    5    5

-DTRs: 
  Bic   Tri  Brac Quad Gas  Plan
L  2     2    2     2   2    2  
R  2     2    2     2   2    2
-Sensory: intact to LT and proprioception in bilateral UE and ___
-Coordination: finger nose finger intact, no dysmetria
-Gait: narrow based, no ataxia or sway, negative Romberg

 
Pertinent Results:
IMAGING STUDIES
-MRI brain w/o contrast ___: Notable for acute-subacute
infarction of R MCA territory, involving the right inferior
frontal lobe with extension into the right insula and temporal
lobes 
-CTA/CT Head w/o contrast ___: occlusive thrombus at the right
MCA bifurcation, with partially occlusive thrombus extending 
into
the inferior and superior divisions of the right M2 segment of
the MCA.  Distal vessels demonstrate reconstitution of flow. 

LABORATORY STUDIES
Admission: 
12.6>14.7/45.0<228
N: 72.6

136|97|12
----------<104 
3.6|25|0.7

ALT: 20 
AP: 59
AST: 45
Tbili: 1.6

Utox: negative 
stroke risk factors: A1c 5.5%, LDL 143, TSH 4.___ year old female with history of hypothyroidism, OSA, severe 
spinal stenosis and osteoarthritis on topical 
estrogen/progesterone who presented with mild left sided 
weakness, left facial droop, and speech slurring. Notably, she 
had discrete episodes of palpitations and lightheadedness over 
the past few weeks which was concerning for a symptomatic 
arryhthmia. Examination was initially notable for intact mental 
status with no evidence of aphasia or hemineglect, mild 
dysarthria, left lower facial droop and mild left sided weakness 
in the ___ range, in an upper motor neuron distribution. She was 
found to have a near-occlusive thrombus of the R MCA, but was 
out of window for tPA and thrombectomy given onset >24 hours 
prior to presentation. 

Stroke risk factors were found to be A1c 5.5%, LDL 143, TSH 4.3

Etiology for stroke was thought to be cardioembolic in etiology, 
given her clinical history (particularly history of intermittent 
palpitations with the last ___ months), and the embolic 
appearance of the imaging findings (CT, MRI). Her stroke risk 
factors were OSA, hyperlipidemia (LDL 157) and thyroid disease. 
As a result, she was started on Apixaban (Eliquis) 5mg BID. 
During the inpatient stay, no cardiac arrhythmias were detected, 
though this was only in a period of a few days. She was arranged 
for a 30 day ___ of Hearts monitor and stroke follow up. She 
was cleared for discharge home with outpatient ___ by physical 
therapy.

TRANSITIONAL ISSUES:
- Continue Apixaban 5mg BID
- Continue atorvastatin 40mg daily 
- Discharged with 30 day ___ of hearts monitor 
- Stroke follow up appointment arranged 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. diclofenac sodium 1 % topical QID PRN  
2. Levothyroxine Sodium 50 mcg PO DAILY EXCEPT ON ___  
3. Levothyroxine Sodium 100 mcg PO Q ___ 
4. Albuterol Inhaler 2 PUFF IH TID PRN  shortness of breath  
5. nystatin-triamcinolone 100,000-0.1 unit/g-% topical PRN  
6. Piroxicam 20 mg PO DAILY PRN  pain  
7. tacrolimus 0.1 % topical PRN  
8. Vitamin D 1000 UNIT PO DAILY 
9. melatonin 5 mg oral QHS PRN 
10. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO/NG BID  
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2 
3.  Albuterol Inhaler 2 PUFF IH TID PRN  shortness of breath   
4.  diclofenac sodium 1 application  topical QID PRN  pain   
5.  Fish Oil (Omega 3) 1000 mg PO DAILY  
6.  Levothyroxine Sodium 50 mcg PO DAILY EXCEPT ON ___   
7.  Levothyroxine Sodium 100 mcg PO Q ___  
8.  melatonin 5 mg oral QHS PRN  
9.  nystatin-triamcinolone 100,000-0.1 unit/g-% topical PRN   
10.  Tacrolimus 0.1 app topical PRN  rash  
11.  Vitamin D 1000 UNIT PO DAILY  
12.Outpatient Physical Therapy
 ___.___ CEREBRAL INFARCTION DUE TO EMBOLISM OF RIGHT MIDDLE 
CEREBRAL ARTERY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right MCA acute ischemic stroke 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of left sided weakness and 
confusion resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are: obstructive sleep apnea, thyroid 
disease  

We are changing your medications as follows:
-Started Apixaban 5mg twice a day
-Started atorvastatin 40mg daily
-Continued other home medications 

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___